US03965257
4-[ 4-(α-Hydroxy-α-phenylbenzyl)piperidino] -4'-methylbutyrophenone hydrochloride
A mixture of 53.5 g (0.2 moles) of α,α -diphenyl-4-piperidinemethanol 43.3 g (0.22 mole) of 4-chloro-4'-methylbutyrophenone, 33.6 g (0.4 mole) of sodium bicarbonate and a small amount of potassium iodide in 1300 ml of toluene was refluxed for 17 hours collecting the evolved water in a Dean-Stark trap. The mixture was filtered and the solvent removed. The residue was dissolved in ether and treated with ethereal HCl, and the resulting precipitate was washed with dry ether and recrystallized from ethyl acetate-methanol and from isopropyl alcohol to give the desired product, M.P. 236°-237° C.

reactant | α,α -diphenyl-4-piperidinemethanol | 0.2 moles, 53.5 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4-chloro-4'-methylbutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)C | C11H13ClO
reactant | sodium bicarbonate | 0.4 mole, 33.6 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | toluene | 1300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[ 4-(α-Hydroxy-α-phenylbenzyl)piperidino] -4'-methylbutyrophenone hydrochloride | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C | InChI=1S/C29H33NO2.ClH/c1-23-14-16-24(17-15-23)28(31)13-8-20-30-21-18-27(19-22-30)29(32,25-9-4-2-5-10-25)26-11-6-3-7-12-26;/h2-7,9-12,14-17,27,32H,8,13,18-22H2,1H3;1H
